US07148226B2
N-(4-bromo-2-ethylphenyl)-N-methylmethanesulfonamide
Methyl iodide (1.6 g, 0.0256M) was added to a mixture of N-(4-bromo-2-ethylphenyl)methanesulfonamide (4.77 g, 0.0171M) and potassium carbonate (3.5 g, 0.0256M) in dimethylformamide (50 ml) at room temperature under an atmosphere of nitrogen. The reaction mixture was stirred for a further 24 hrs after which time it was partitioned between diethylether (100 ml) and water (100 ml). The aqueous was extracted further with diethyl ether (2×100 ml). The combined organics were dried over magnesium sulfate, filtered and the solvent concentrated in vacuuo to afford the title compound as a brown oil (3.6 g).

reactant | Methyl iodide | 0.0256M, 1.6 g | CI | CH3I
reactant | N-(4-bromo-2-ethylphenyl)methanesulfonamide | 0.0171M, 4.77 g | BrC1=CC(=C(C=C1)NS(=O)(=O)C)CC | C9H12BrNO2S
reactant | potassium carbonate | 0.0256M, 3.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(4-bromo-2-ethylphenyl)-N-methylmethanesulfonamide | 3.6 g | BrC1=CC(=C(C=C1)N(S(=O)(=O)C)C)CC | C10H14BrNO2S
